US05728686
c) Diethyl [4-(1-ethyl-3-methylxanthin-7-yl)butyl]phosphonate
9.7 g (0.05 mol) of 1-ethyl-3-methylxanthine were stirred at 70° C. for 6 hours with 12.7 g (0.06 mol) of diethyl chlorobutanephosphonate and 8.3 g of potassium carbonate. The solution was filtered, the solvent was evaporated, and the residue which remained was chromatographed (eluent: ethyl acetate/methanol 10: 1) and crystallized from ethyl acetate/diisopropyl ether.

reactant | 1-ethyl-3-methylxanthine | 0.05 mol, 9.7 g | C(C)N1C(=O)N(C=2N=CNC2C1=O)C | C8H10N4O2
reactant | diethyl chlorobutanephosphonate | 0.06 mol, 12.7 g | ClC(CCC)P(OCC)(=O)OCC | C8H18ClO3P
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
product | Diethyl [4-(1-ethyl-3-methylxanthin-7-yl)butyl]phosphonate | C(C)N1C(=O)N(C=2N=CN(C2C1=O)CCCCP(OCC)(OCC)=O)C | C16H27N4O5P
